US06900309B1
9-[(3aR,4R,6R,6aR)-6-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-6-chloro-2-(tributylstannyl)-9H-purine
A solution of 2,2,6,6-tetramethylpiperidine (17.6 g, 125 mmol) in dry tetrahydrofuran (350 ml) was cooled to −50° C., under an atmosphere of nitrogen gas, and treated with n-butyllithium (78 ml, 1.6M solution in hexanes, 125 mmol) over 15 minutes. The reaction mixture was then cooled to −70° C. and a solution of 9-[(3aR,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-6-chloro-9H-purine (Bioorg. Med. Chem. Lett., 8, 695-698, (1998)) (11.0 g, 25 mmol) in dry tetrahydrofuran (150 ml) was added, dropwise, keeping the temperature below −70° C. The reaction mixture was stirred for 30 minutes. Tri-n-butyl tin chloride (40.7 g, 125 mmol) was then added to the reaction and the mixture stirred at −70° C. for 30 minutes. A saturated solution of ammonium chloride in water (100 ml) was added to the reaction which was then warmed to 0° C. A saturated aqueous solution of sodium hydrogen carbonate was added (150 ml) and the mixture extracted with ethyl acetate (3×100 ml). The combined organic extracts were washed with brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of hexane:ethyl acetate (95:5, by volume) gradually changing to hexane:ethyl acetate (80:20, by volume) to afford the title compound (13.0 g).

reactant | 2,2,6,6-tetramethylpiperidine | 125 mmol, 17.6 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | 125 mmol, 1.6M, 78 ml | C(CCC)[Li]
reactant | 9-[(3aR,4R,6R,6aR)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-6-chloro-9H-purine | 25 mmol, 11.0 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)Cl | C19H29ClN4O4Si
reactant | Tri-n-butyl tin chloride | 125 mmol, 40.7 g | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 9-[(3aR,4R,6R,6aR)-6-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-6-chloro-2-(tributylstannyl)-9H-purine | 13.0 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC(=NC(=C1N=C2)Cl)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C19H28ClN4O4Si.3C4H9.Sn/c1-18(2,3)29(6,7)25-8-11-13-14(28-19(4,5)27-13)17(26-11)24-10-23-12-15(20)21-9-22-16(12)24;3*1-3-4-2;/h10-11,13-14,17H,8H2,1-7H3;3*1,3-4H2,2H3;/t11-,13-,14-,17-;;;;/m1..../s1
